US06727232B2
16-((R)-({(3R,4S,5R)-5-[(Acetamido)methyl]-4-hydroxy-3-methoxytetrahydro-2-furanyl}oxy){(2S,3S,4R,5R)-5-[2,4-dioxo-3,4-dihydro-1 (2H)-pyrimidinyl]-3,4-dihydroxytetrahydro-2-furanyl}methyl)-9-(1-hydroxy-2-methylpropyl)-6-(2-iminohexahydro-4-pyrimidinyl)-2-isopropyl-4,7,10-trioxo-3,5,8,11,15-pentaazaheptadecane-1,17-dioic Acid
A suspension of 39.0 mg (41.2 μmol) of 16-({[5-(aminomethyl)-4-hydroxy-3-methoxytetrahydro-2-furanyl]oxy}{5-[2,4-dioxo-3,4-dihydro-1 (2H)-pyrimidinyl]-3,4-dihydroxytetrahydro-2-furanyl}methyl)-9-(1-hydroxy-2-methylpropyl)-6-(2-iminohexahydro-4-pyrimidinyl)-2-isopropyl-4,7,10-trioxo-3,5,8,11,15-pentaazaheptadecane-1,17-dioic acid in 2.0 ml of acetic anhydride is placed in an ultrasonic bath (Branson 1200) at room temperature for 35 minutes. Water (2 ml) and n-butanol (2 ml) are added to the reaction mixture and the volatile materials removed under reduced pressure to a residue which is suspended in 2 ml of acetone and the suspension filtered through glass wool. The desired product (the acetone insoluble product) is recovered as a white solid by dissolving in 2 ml water followed by lyophylization.

reactant | 16-({[5-(aminomethyl)-4-hydroxy-3-methoxytetrahydro-2-furanyl]oxy}{5-[2,4-dioxo-3,4-dihydro-1 (2H)-pyrimidinyl]-3,4-dihydroxytetrahydro-2-furanyl}methyl)-9-(1-hydroxy-2-methylpropyl)-6-(2-iminohexahydro-4-pyrimidinyl)-2-isopropyl-4,7,10-trioxo-3,5,8,11,15-pentaazaheptadecane-1,17-dioic acid | 41.2 μmol, 39.0 mg | NCC1C(C(C(O1)OC(C(NCCCNC(C(NC(C(NC(NC(C(=O)O)C(C)C)=O)C1NC(NCC1)=N)=O)C(C(C)C)O)=O)C(=O)O)C1OC(C(C1O)O)N1C(NC(C=C1)=O)=O)OC)O | C38H63N11O17
reactant | Water | 2 ml | O | H2O
reactant | n-butanol | 2 ml | C(CCC)O | C4H10O
solvent | acetic anhydride | 2.0 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 16-((R)-({(3R,4S,5R)-5-[(Acetamido)methyl]-4-hydroxy-3-methoxytetrahydro-2-furanyl}oxy){(2S,3S,4R,5R)-5-[2,4-dioxo-3,4-dihydro-1 (2H)-pyrimidinyl]-3,4-dihydroxytetrahydro-2-furanyl}methyl)-9-(1-hydroxy-2-methylpropyl)-6-(2-iminohexahydro-4-pyrimidinyl)-2-isopropyl-4,7,10-trioxo-3,5,8,11,15-pentaazaheptadecane-1,17-dioic Acid | C(C)(=O)NC[C@@H]1[C@@H]([C@H](C(O1)O[C@H](C(NCCCNC(C(NC(C(NC(NC(C(=O)O)C(C)C)=O)C1NC(NCC1)=N)=O)C(C(C)C)O)=O)C(=O)O)[C@H]1O[C@H]([C@@H]([C@@H]1O)O)N1C(NC(C=C1)=O)=O)OC)O | C40H65N11O18
